US09421205B2
(d) tert-Butyl 4-(4-((4-(2-(1-methoxy-1-oxopropan-2-yl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I53)
A solution of tert-butyl 4-(4-((4-((2-(1-methoxy-1-oxopropan-2-yl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I52) (0.108 g, 0.177 mmol) in EtOAc (5 mL) and DMF (10 mL) was added to a suspension of 10% Pd/C (80 mg) in EtOAc (5 mL). The reaction was stirred at room temperature for 24 hours under an atmosphere of hydrogen. The reaction was filtered and the solvent removed in vacuo to yield a brown residue. The residue was redissolved in DMF (15 mL) and added to a suspension of 10% Pd/C (55 mg) in DMF (5 mL). The reaction was stirred at room temperature for 24 hours under an atmosphere of hydrogen. The reaction was filtered through a pad of celite washing with EtOAc (100 mL). Removal of the solvent under reduced pressure yielded a brown viscous oil which was purified by column chromatography on silica gel (0-15% EtOAc in petroleum benzine 40-60° C.) to afford the title compound (I53) (84.3 mg, 77%) as a pale yellow viscous oil; 1H NMR (400 MHz, CDCl3) δ 8.54 (s, 1H), 7.59-7.54 (m, 2H), 7.38 (s, 1H), 7.33-7.30 (m, 1H), 7.25-7.17 (m, 5H), 4.25 (s, 2H), 4.11 (q, J=7.1 Hz, 1H), 3.64 (s, 3H), 3.23-3.02 (m, 4H), 2.81 (t, J=12.0 Hz, 2H), 2.64 (tt, J=12.0, 3.4 Hz, 1H), 1.83 (d, J=12.9 Hz, 2H), 1.67-1.59 (m, 2H), 1.50-1.48 (d, J=7.0 Hz, 3H; s, 9H). LCMS Method C: rt 7.15 min; m/z 635 [M+Na]+, 613 [M+H]+, 557 [M-tButyl+2H]+.

reactant | tert-butyl 4-(4-((4-((2-(1-methoxy-1-oxopropan-2-yl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.177 mmol, 0.108 g | COC(C(C)C1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C33H35F3N4O4
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 80 mg | [Pd] | Pd
catalyst | Pd/C | 55 mg | [Pd] | Pd
product | tert-Butyl 4-(4-((4-(2-(1-methoxy-1-oxopropan-2-yl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 84.3 mg, 77% | COC(C(C)C1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C33H39F3N4O4
